US06306839B1
5-(1-Benzyloxyethyl)-3-chloro-2-methylthiopyridine
3-Chloro-5-(1-hydroxyethyl)-2-methylthiopyridine (21.9 g, 0.108 mol) was dissolved with stirring in anhydrous DMF (250 mL) and 60% sodium hydride (5 g, 0.125 mol) added in portions. The mixture was stirred at room temperature for 30 minutes and benzyl bromide (17.6 g, 0.103 mol) added dropwise. The mixture was then stirred at room temperature for four hours, diluted with water (400 mL) and extracted three times with ethyl acetate (100 mL). The combined organic extracts were washed twice with water (200 mL) and saturated sodium chloride solution (100 mL), dried over anhydrous sodium sulphate, and evaporated to dryness. Purification of the residue by chromatography over silica (0-5% ethyl acetate:hexane) gave the desired product (25.0 g, 79%) as a pale yellow oil.

reactant | 3-Chloro-5-(1-hydroxyethyl)-2-methylthiopyridine | 0.108 mol, 21.9 g | ClC=1C(=NC=C(C1)C(C)O)SC | C8H10ClNOS
reactant | sodium hydride | 0.125 mol, 5 g | [H-].[Na+]
reactant | benzyl bromide | 0.103 mol, 17.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | 5-(1-Benzyloxyethyl)-3-chloro-2-methylthiopyridine | 25.0 g, 79% | C(C1=CC=CC=C1)OC(C)C=1C=C(C(=NC1)SC)Cl | C15H16ClNOS
